US06875868B2
a) 2-[[(2,3-Difluorophenyl)methyl]sulfonyl]-4-[[(1R)-2-hydroxy-1-methylethyl]amino]-7(8H)-pteridinone
2-[[(2,3-Difluorophenyl)methyl]thio]-4-[[(1R)-2-hydroxy-1-methylethyl]amino]-7(8H)-pteridinone (0.38 g) was stirred in acetonitrile (150 ml) and water (150 ml) with oxone (3.79 g) for 18 hrs. Acetonitrile was removed in vacuo to leave an aqueous suspension. The solid was collected and dried in vacuo to afford the subtitled compound (0.30 g).

reactant | 2-[[(2,3-Difluorophenyl)methyl]thio]-4-[[(1R)-2-hydroxy-1-methylethyl]amino]-7(8H)-pteridinone | 0.38 g | FC1=C(C=CC=C1F)CSC1=NC=2NC(C=NC2C(=N1)N[C@@H](CO)C)=O | C16H15F2N5O2S
reactant | water | 150 ml | O | H2O
reactant | oxone | 3.79 g | OOS(=O)[O-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-[[(2,3-Difluorophenyl)methyl]sulfonyl]-4-[[(1R)-2-hydroxy-1-methylethyl]amino]-7(8H)-pteridinone | 0.30 g | FC1=C(C=CC=C1F)CS(=O)(=O)C1=NC=2NC(C=NC2C(=N1)N[C@@H](CO)C)=O | C16H15F2N5O4S
